US06252082B1
Methyl 3-amino-6-methyl-2-oxo-4-(phenylthio)-1,2-dihydropyridine-1-acetate
4.67 g (14 mmol) of methyl 6-methyl-3-nitro-2-oxo-4-(phenylthio)-1,2-dihydropyridine-1-acetate are suspended in 200 ml of a methanol:water (1:1) mixture, 5 ml of a 2 N aqueous hydrochloric acid solution and 5 g (76.4 mmol) of zinc are added successively and the mixture is heated at the reflux temperature for 3 hours. The reaction medium is allowed to cool, filtered and the solvent is evaporated. The medium is neutralized with 200 ml of sodium hydrogen carbonate and extracted with twice 100 ml of dichloromethane. The organic phase is recovered and it is dried and evaporated. The residue is purified by chromatography on a silica gel column, eluting with a dichloromethane:methanol (98:2) mixture. 2 g of product are obtained in the form of a white solid which are recrystallized from ethanol.

reactant | methyl 6-methyl-3-nitro-2-oxo-4-(phenylthio)-1,2-dihydropyridine-1-acetate | 14 mmol, 4.67 g | CC1=CC(=C(C(N1CC(=O)OC)=O)[N+](=O)[O-])SC1=CC=CC=C1 | C15H14N2O5S
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | methanol water | 200 ml | CO.O
catalyst | zinc | 76.4 mmol, 5 g | [Zn] | Zn
product | Methyl 3-amino-6-methyl-2-oxo-4-(phenylthio)-1,2-dihydropyridine-1-acetate | 2 g, Yield=47% | NC=1C(N(C(=CC1SC1=CC=CC=C1)C)CC(=O)OC)=O | C15H16N2O3S
